US20010044426A1
Step 1: 6-[(2-Methyl-3-pyridyl)oxy]-3-pyridylamine
A solution of 14.35 g of tin chloride in 30 ml of concentrated hydrochloric acid is added to a mixture of 5 g of 2-(2-methylpyrid-3-yloxy)-5-nitropyridine and the whole is heated at reflux for 1 hour. The reaction mixture is cooled and adjusted to basic pH by the addition of concentrated sodium hydroxide solution. After the removal of a precipitate by filtration, the aqueous phase is extracted with ethyl acetate. After conventional working up, the expected product is isolated in the form of a violet powder.

reactant | tin chloride | 14.35 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-(2-methylpyrid-3-yloxy)-5-nitropyridine | 5 g | CC1=NC=CC=C1OC1=NC=C(C=C1)[N+](=O)[O-] | C11H9N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 6-[(2-Methyl-3-pyridyl)oxy]-3-pyridylamine | CC1=NC=CC=C1OC1=CC=C(C=N1)N | C11H11N3O
